US06472349B1
Methyl 2-amino-6-chloro-3-methylbenzoate
At 22° C., 110 g (0.52 mol of 6-chloro-3-methylisatoic anhydride were introduced into a mixture of 750 ml of methanol and 47.6 g (0.47 mol) of triethylamine, and the mixture was then stirred at 65° C. for 2 h. The reaction mixture was concentrated under reduced pressure and the residue was taken up in methylene chloride and extracted 3 times with 0.5 N aqueous sodium hydroxide solution. The mixture was dried over magnesium sulfate, filtered through silica gel and concentrated under reduced pressure, giving 45.5 g (43.8% of theory) of the title compound as a colorless oil with nD23=1.5765.

reactant | 6-chloro-3-methylisatoic anhydride | 0.52 mol | ClC=1C=CC(=C2C1C(=O)OC(N2)=O)C | C9H6ClNO3
reactant | triethylamine | 0.47 mol, 47.6 g | C(C)N(CC)CC | C6H15N
solvent | methanol | 750 ml | CO | CH4O
product | Methyl 2-amino-6-chloro-3-methylbenzoate | NC1=C(C(=O)OC)C(=CC=C1C)Cl | C9H10ClNO2
